US07915424B2
3-Bromo-5-(3-trifluoromethylphenylethynyl)-pyridine
Add triethylamine (6.2 mL, 44 mmol), copper (I) iodide (120.3 mg, 1.10 mmol) and bis(triphenylphosphine)palladium (II) dichloride (386 mg, 0.55 mmol) to a solution of 3-bromo-5-ethynylpyridine, (prepared essentially as described in PREPARATION 23), (2.0 g, 11 mmol) and 1-iodo-3-trifluoromethylbenzene (1.53 mL, 11 mmol) in ethyl acetate (12 mL). Stir at room temperature for 18 h. Concentrate and purify the residue by silica gel chromatography, eluting with 100:0 to 100:50 hexanes:ethyl acetate to give the title compound (2.1 g, 61%).

reactant | triethylamine | 44 mmol, 6.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-5-ethynylpyridine | BrC=1C=NC=C(C1)C#C | C7H4BrN
reactant | 1-iodo-3-trifluoromethylbenzene | 11 mmol, 1.53 mL | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 1.10 mmol, 120.3 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.55 mmol, 386 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Bromo-5-(3-trifluoromethylphenylethynyl)-pyridine | 2.1 g, 61% | BrC=1C=NC=C(C1)C#CC1=CC(=CC=C1)C(F)(F)F | C14H7BrF3N
